US08957080B2
Into a 250-mL 4-necked round-bottom flask, was placed 4-(2,3-difluorophenoxy)-aniline (8.84 g, 39.96 mmol, 1.00 equiv), hydrogen chloride (10.14 g, 100.01 mmol, 2.50 equiv), and water (20 mL). A solution of NaNO2 (3.04 g, 44.06 mmol, 1.10 equiv) in water (10 mL) was added dropwise with stirring in portions at 0° C. The mixture was stirred at 0° C. for half an hour. To this was added urea (1 g, 16.65 mmol). The mixture was stirred at 0° C. for 20 min and poured into the solution of NaI (18 g, 120.00 mmol, 3.00 equiv) in water (20 mL) at room temperature. The resulting solution was stirred at room temperature for 1 h and then extracted with ethyl acetate. The organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum to give 10.5 g (79%) of 1,2-difluoro-3-(4-iodophenoxy)benzene as brown oil.

reactant | 4-(2,3-difluorophenoxy)-aniline | 39.96 mmol, 8.84 g, 1.00 equiv | FC1=C(OC2=CC=C(N)C=C2)C=CC=C1F | C12H9F2NO
reactant | hydrogen chloride | 100.01 mmol, 10.14 g, 2.50 equiv | Cl | ClH
reactant | NaNO2 | 44.06 mmol, 3.04 g, 1.10 equiv | N(=O)[O-].[Na+]
reactant | urea | 16.65 mmol, 1 g | NC(=O)N | CH4N2O
reactant | NaI | 120.00 mmol, 18 g, 3.00 equiv | [Na+].[I-]
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 1,2-difluoro-3-(4-iodophenoxy)benzene | 10.5 g, 79% | FC1=C(C(=CC=C1)OC1=CC=C(C=C1)I)F | C12H7F2IO
